US04808589
To a solution of S-(4-dimethylaminomethyl-2pyridylmethyl)isothiourea trihydrochloride (21.54 g) and 3-chloropropionitrile (8.01 g) in water (90 ml) and ethanol (65 ml) at 0° C (ice-salt bath) under nitrogen, was added dropwise over 30 minutes, a solution of sodium hydroxide (11.5 g) in water (120 ml), keeping the temperature below 3° C. After having been stirred for 7 hours and allowed to stand for 20 hours, the solution was extracted with 3:1 chloroform:ethanol (3×160 ml). The combined extracts were washed with water and dried (MgSO4) Solvent was evaporated at reduced pressure and the residue vacuum-distilled to give 3-(4-dimethylaminomethy-2-pyridyl-methylthio)propionitrile (13.66 g) as a pale yellow liquid, b.p.0.005 mm 148°-152° C.

reactant | S-(4-dimethylaminomethyl-2pyridylmethyl)isothiourea trihydrochloride | 21.54 g | Cl.Cl.Cl.CN(C)CC1=CC(=NC=C1)CSC(N)=N
reactant | 3-chloropropionitrile | 8.01 g | ClCCC#N | C3H4ClN
reactant | sodium hydroxide | 11.5 g | [OH-].[Na+]
solvent | water | 90 ml | O | H2O
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | water | 120 ml | O | H2O
product | 3-(4-dimethylaminomethy-2-pyridyl-methylthio)propionitrile | 13.66 g | CN(C)CC1=CC(=NC=C1)CSCCC#N | C12H17N3S
